US07335658B2
6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (4-METHYLPENTYL)AMIDE
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (4-methylpentyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (36% yield). m.p. 43-45° C. 1H NMR (300 MHz, CDCl3) δ 7.71, 7.66-7.52, 7.34, 6.96, 4.06-3.98, 3.87-3.68, 3.63, 3.53, 3.19, 3.25, 3.09, 1.65-1.58, 1.36-1.33, 1.26-1.12, 0.85. 13C NMR (75 MHz, CDCl3) δ 167.6, 166.9, 166.2, 159.0, 158.9, 149.5, 149.4, 134.4, 132.4, 129.5, 129.2, 127.2, 126.9, 126.8, 112.6, 112.5, 51.4, 48.8, 46.4, 44.7, 44.4, 41.3, 37.8, 34.8, 34.0, 29.7, 29.0, 28.7, 27.1, 26.7, 22.5, 22.3, 14.0, 13.9. MS (ES+) m/z 464.2 (M+1), 486.2 (M+Na).

reactant | 6-chloropyridazine-3-carboxylic acid (4-methylpentyl)amide | CC(CCCNC(=O)C=1N=NC(=CC1)Cl)C | C11H16ClN3O
reactant | piperazin-1-yl-(2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
product | 6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (4-METHYLPENTYL)AMIDE | CC(CCCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)C | C23H28F3N5O2
